US07427613B2
Cyclopropyl-(3-trifluoromethoxybenzyl)amine
Synthesized according to typical procedure J from 3-trifluoromethoxy-benzaldehyde and cyclopropylamine.

reactant | 3-trifluoromethoxy-benzaldehyde | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(3-trifluoromethoxybenzyl)amine | C1(CC1)NCC1=CC(=CC=C1)OC(F)(F)F | C11H12F3NO
